US06518277B1
2-Amino-5-chloro-N-(2-chlorophenyl)benzamide (1d)
Prepared according to Procedure A using 2-amino-5-chlorobenzoic acid (2.0 g, 11.7 mmol) and SOCl2 (2.2 mL, 29.2 mmol) in benzene (50 mL), followed by 2-chloroaniline (2.5 mL, 23.3 mmol) and CHCl3 (50 mL). The product was purified by recrystallization from MeOH to provide 1.72 g of a dark yellow solid (52%). 1H NMR (CDCl3) δ: 8.37 (dd, J=1.5, 8.3 Hz, 1H); 8.22 (br s, 1H); 7.48 (d, J=2.3 Hz, 1H); 7.42 (dd, J=1.5, 8.1 Hz, 1H); 7.31 (dt, J=1.4, 7.8 Hz, 1H); 7.22 (dd, J=2.4, 8.8 Hz, 1H); 7.09 (dt, J=1.5, 7.7 Hz, 1H); 6.67 (d, J=8.8 Hz, 1H); 5.56 (br s, 2H).

reactant | 2-amino-5-chlorobenzoic acid | 11.7 mmol, 2.0 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | SOCl2 | 29.2 mmol, 2.2 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 23.3 mmol, 2.5 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-5-chloro-N-(2-chlorophenyl)benzamide | 1.72 g, 52% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H10Cl2N2O
